US07977344B2
6-Amino-2-(butyloxy)-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-purin-8-one (Isomer 1)
2-(Butyloxy)-8-(methoxy)-9-(tetrahydro-3-furanylmethyl)-9H-purin-6-amine (Isomer 1, 1.54 gm) was suspended in methanol (20 ml) and 4N HCl in dioxan (4 ml) added with stirring to give a clear solution. After 6.5 h, the solvents were evaporated to low volume and water added with stirring, followed by neutralisation with saturated sodium bicarbonate. The resulting off-white solid was filtered, washed with water and dried, yield 1.26 gm. This material was added portionwise to boiling methanol (130 ml), adding a further 20 ml of methanol. The suspension was filtered, and the solid treated with boiling methanol (20 ml) and added to the filtrate. This was reboiled, then allowed to cool with stirring when a white solid crystallised out. This was filtered, washed with methanol and dried, to give the title compound yield 932 mg.

reactant | 2-(Butyloxy)-8-(methoxy)-9-(tetrahydro-3-furanylmethyl)-9H-purin-6-amine | 1.54 gm | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1COCC1)OC)N | C15H23N5O3
reactant | HCl | 4N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | dioxan | 4 ml | O1CCOCC1 | C4H8O2
product | 6-Amino-2-(butyloxy)-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-purin-8-one | yield 932 mg | NC1=C2NC(N(C2=NC(=N1)OCCCC)CC1COCC1)=O | C14H21N5O3
